US05804601
To a solution of ethyl (E)-6-(2-quinolyl)-5-hexenoate (2.0 g) in methanol (10 ml) was added 3N aqueous sodium hydroxide solution (5 ml) under ice-cooling and the mixture was then stirred at room temperature for 6 hours. This reaction mixture was neutralized with 3N HCl and the solvent methanol was distilled off under reduced pressure. The resulting crude crystals were collected by filtration, rinsed with water, further rinsed with ether, and dried in vacuo to provide 0.76 g of (E)-6-(2-quinolyl)-5-hexenoic acid as colorless crystals.

reactant | ethyl (E)-6-(2-quinolyl)-5-hexenoate | 2.0 g | N1=C(C=CC2=CC=CC=C12)/C=C/CCCC(=O)OCC | C17H19NO2
reactant | sodium hydroxide | 3N, 5 ml | [OH-].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | (E)-6-(2-quinolyl)-5-hexenoic acid | 0.76 g | N1=C(C=CC2=CC=CC=C12)/C=C/CCCC(=O)O | C15H15NO2
